US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.94 g, 5.0 mmol), anisoyl chloride (0.91 g, 5.3 mmol), and triethylamine (2.1 mL, 15 mmol) in tetrahydrofuran (25 mL) provided 4-methoxy-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide (1.0 g). Mp 197.0-197.5° C.; Anal. Calcd. for C20H19NO3: C, 74.75; H, 5.96; N, 4.36; Found: C, 74.67; H, 5.87; N, 4.46.

reactant | tetrahydro-dibenzofuran-2-ylamine | 5.0 mmol, 0.94 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | anisoyl chloride | 5.3 mmol, 0.91 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-methoxy-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-benzamide | 1.0 g | COC1=CC=C(C(=O)NC2=CC3=C(OC4=C3CCCC4)C=C2)C=C1 | C20H19NO3
